US06184236B2
A mixture of trans-2-{[4-(4-benzyloxy-phenyl)-cyclohexyl]-methyl-amino}-ethanol (0.3 g, 0.88 mmol), p-cresol (96 mg, 0.88 mmol), triphenylphosphine (232 mg, 0.88 mmol), diethyl-azodicarboxylate (154 mg, 0.88 mmol) and THF was stirred at rt for 3h. The solvent was evaporated and the rsidue was treated with MeOH/H2O (3:1, 50 ml) and hexane (50 ml). The aq. layer was extracted with hexane (30 ml). The combined hexane extracts were dried and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2—MeOH 95:5) to give trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-methyl-(2-p-tolyloxy-ethyl)-amine (135 mg, 69%, white solid, MS: m/e=430.5 (M+H+)).

reactant | trans-2-{[4-(4-benzyloxy-phenyl)-cyclohexyl]-methyl-amino}-ethanol | 0.88 mmol, 0.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(CCO)C | C22H29NO2
reactant | p-cresol | 0.88 mmol, 96 mg | C1=CC(=CC=C1O)C | C7H8O
reactant | triphenylphosphine | 0.88 mmol, 232 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl-azodicarboxylate | 0.88 mmol, 154 mg | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | trans-[4-(4-benzyloxy-phenyl)-cyclohexyl]-methyl-(2-p-tolyloxy-ethyl)-amine | 135 mg, 69% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(CCOC1=CC=C(C=C1)C)C | C29H35NO2
